US07229999B2
(+)-5-(4-Cyano-phenyl)-N-(2-cyclopropyl-2-hydroxy-propyl)-6-cyclopropylmethoxy-nicotinamide
The title compound was synthesized in analogy to Example 75, using 5-bromo-6-chloro-3-pyridinecarboxylic acid, hydroxymethyl-cyclopropan, 4-cyanophenylboronic acid and (+)-1-amino-2-cyclopropyl-propan-2-ol as starting materials to yield (+)-5-(4-cyano-phenyl)-N-(2-cyclopropyl-2-hydroxy-propyl)-6-cyclopropylmethoxy-nicotinamide. MS (ISP) 392.2 (M+H)+, αD20: +1.7° in MeOH.

reactant | 5-bromo-6-chloro-3-pyridinecarboxylic acid | BrC=1C=C(C=NC1Cl)C(=O)O | C6H3BrClNO2
reactant | hydroxymethyl-cyclopropan | OCC1CC1 | C4H8O
reactant | 4-cyanophenylboronic acid | C(#N)C1=CC=C(C=C1)B(O)O | C7H6BNO2
reactant | (+)-1-amino-2-cyclopropyl-propan-2-ol | NCC(C)(O)C1CC1 | C6H13NO
product | (+)-5-(4-cyano-phenyl)-N-(2-cyclopropyl-2-hydroxy-propyl)-6-cyclopropylmethoxy-nicotinamide | C(#N)C1=CC=C(C=C1)C=1C(=NC=C(C(=O)NCC(C)(O)C2CC2)C1)OCC1CC1 | C23H25N3O3
